US09029531B2
Cyclopentane-1,3-diyldimethanol (I-20)
To 1,3-cyclopentanedicarbaldehyde I-19 (1 equivalent) taken in a flask was added deoxygenated methanol. The reaction mixture was cooled to 0° C. and NaBH4 (2 equivalents) was added in small aliquots in order to avoid a raise in the reaction temperature above 10° C. The reaction mixture was left to warm to room temperature and stirred for an additional 3 h under nitrogen atmosphere. Distilled water was added to the reaction mixture to quench any remaining NaBH4 and then rotary evaporated to remove methanol from the solution. The remaining mixture was extracted with dichloromethane (5 times) and the combined organic fractions were dried over anhydrous sodium sulfate and evaporated to dryness to afford the title compound I-20.

reactant | 1,3-cyclopentanedicarbaldehyde | C1(CC(CC1)C=O)C=O | C7H10O2
reactant | NaBH4 | 2 equivalents | [BH4-].[Na+]
solvent | water | O | H2O
product | Cyclopentane-1,3-diyldimethanol | C1(CC(CC1)CO)CO | C7H14O2
